US07265104B2
To a solution of 2-[4-(6-fluoro-1H-indol-3-ylmethylene)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide (158 mg, 0.252 mmol) in MeOH (20 mL) was added ammonium formate (463 mg, 7.34 mmol) and 10% palladium on charcoal (112 mg). The reaction was heated at reflux for 24 hours. The suspension was filtered hot, rinsing with 10% MeOH in CH2Cl2 (3×) and with CH2Cl2 (3×). The combined organic filtrates were concentrated and the residue was purified by medium pressure chromatography eluting with a solvent gradient (2% MeOH in CH2Cl2 to 8% MeOH in CH2Cl2) to yield 110 mg of 2-[4-(6-fluoro-1H-indol-3-ylmethyl)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide. 1H NMR (CD3OD) δ 8.08 (d, 1H), 7.39-7.62 (m, 9H) 7.15 (m, 2H), 6.93 (m, 3H), 6.68 (m, 1H), 4.80 (m, 1H), 4.55 (m, 1H), 4.20 (m, 1H), 3.95 (s, 3H), 3.88 (t, 1H), 3.77 (m, 1H), 3.67 (m, 1H), 1.01 (m, 6H); MS 630 (M+1), 628.5 (M−1).

reactant | 2-[4-(6-fluoro-1H-indol-3-ylmethylene)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide | 0.252 mmol, 158 mg | FC1=CC=C2C(=CNC2=C1)C=C1C(N(C2=C(N3C(=NN=C13)C1=CC=CC=C1)C=CC=C2)CC(=O)N(C=2C=NC(=CC2)OC)C(C)C)=O | C36H30FN7O3
reactant | ammonium formate | 7.34 mmol, 463 mg | C(=O)[O-].[NH4+]
solvent | MeOH | 20 mL | CO | CH4O
catalyst | palladium on charcoal | 112 mg | [Pd] | Pd
product | 2-[4-(6-fluoro-1H-indol-3-ylmethyl)-5-oxo-1-phenyl-4,5-dihydro-2,3,6,10b-tetraaza-benzo[e]azulen-6-yl]-N-isopropyl-N-(6-methoxy-pyridin-3-yl)-acetamide | 110 mg | FC1=CC=C2C(=CNC2=C1)CC1C(N(C2=C(N3C(=NN=C13)C1=CC=CC=C1)C=CC=C2)CC(=O)N(C=2C=NC(=CC2)OC)C(C)C)=O | C36H32FN7O3
